US07276511B2
Synthesis of tert-butyl[1-(3,4-dichlorophenyl)-1-hydroxymethyl-3-butenyl]methylcarbamate
Ethyl acetate (500 mL) and saturated aqueous sodium bicarbonate (650 mL) were added to 2-(3,4-dichlorophenyl)-2-methylamino-4-pentenol (+)-di-p-toluoyl-D-tartrate (84.8 g). The insoluble matter was passed through Celite, followed by washing with ethyl acetate. The filtrate was partitioned. The ethyl acetate layer was washed with saturated brine, dried over sodium sulfate anhydrate, and concentrated under reduced pressure. The residue was dissolved in 1,4-dioxane (250 mL). Di-tert-butoxydicarbonate (30.5 g) was added to the resultant solution, followed by stirring at 100° C. overnight. The reaction mixture was concentrated under reduced pressure and the residue was purified through silica gel column chromatography (n-hexan:ethyl acetate=8:1 to 3:1), to thereby give the title compound (45.3 g, 99%).

reactant | sodium bicarbonate | 650 mL | C([O-])(O)=O.[Na+]
reactant | 2-(3,4-dichlorophenyl)-2-methylamino-4-pentenol (+)-di-p-toluoyl-D-tartrate | 84.8 g | C1(=CC=C(C=C1)C(=O)[C@@]([C@@](C(=O)O)(O)C(=O)C1=CC=C(C=C1)C)(O)C(=O)O)C.ClC=1C=C(C=CC1Cl)C(CO)(CC=C)NC
solvent | Ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl[1-(3,4-dichlorophenyl)-1-hydroxymethyl-3-butenyl]methylcarbamate | 45.3 g, 99% | C(C)(C)(C)OC(N(C)C(CC=C)(CO)C1=CC(=C(C=C1)Cl)Cl)=O | C17H23Cl2NO3
